US07344702B2
Synthesis of Butyric Acid 4-phenylbutyl ester
To 4-phenyl-1-butanol (7.0 g, 0.047 mol) was added anhydrous dichloromethane (20 mL). A solution of butyryl chloride (4.79 g, 0.045 mol) in anhydrous dichloromethane (20 mL) was added dropwise. The solution was stirred for 36 hours. At this point the reaction was concentrated under reduced pressure to give a crude oil. Column chromatography [silica gel; eluent hexanes-ethyl acetate (3:1)] provided the desired product (9.8 g, 94%) as a clear viscous liquid. 1H(CDCl3) δ(ppm): 0.94 (t, 3H); 1.61-1.71 (m, 6H); 2.27 (t, 2H); 2.64 (t, 2H); 4.08 (t, 2H); 7.16-7.19 (m, 3H); 7.25-7.29 (m, 2H).

reactant | 4-phenyl-1-butanol | 0.047 mol, 7.0 g | C1(=CC=CC=C1)CCCCO | C10H14O
reactant | butyryl chloride | 0.045 mol, 4.79 g | C(CCC)(=O)Cl | C4H7ClO
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | Butyric Acid 4-phenylbutyl ester | 9.8 g, 94% | C1(=CC=CC=C1)CCCCOC(CCC)=O | C14H20O2
